US05298647
Synthesis of N(4-aminobenzoyl)-L-methionine
In an Erlenmeyer flask, 1.35 g of para-aminobenzoic acid chloride are dissolved in 20 ml benzene in the presence of 2.8 ml triethylamine. 1.49 g L-methionine is added progressively and the resultant mixture is filtered. After evaporation of the filtrate to dryness under vacuum (15 mm Hg), the residue is dissolved in N hydrochloric acid and extracted with chloroform. The chloroformic solution is successively washed with several ml of 10% aqueous HKCO3 solution and with water. It is then collected, dried over magnesium sulfate and evaporated. The product obtained is precipitated in cyclohexane and filtered. After recrystallization in a (1:1) mixture of 95 alcohol-water, 1.95 g of white crystals are isolated. M.p.: 172° C.

reactant | L-methionine | 1.49 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | para-aminobenzoic acid chloride | 1.35 g | NC1=CC=C(C(=O)Cl)C=C1 | C7H6ClNO
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | N(4-aminobenzoyl)-L-methionine | NC1=CC=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1 | C12H16N2O3S
